US06890942B2
4-(6-Ethoxy-benzothiazole-2-sulfonylamino)-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide was treated with 6-ethoxy-benzothiazole-2-sulfonic acid amide as described in the preparation of compound 1 to yield the title compound. 1H NMR (500 MHz, CDCl3) δ: 1.47 (t, 3, J=7), 3.62 (s, 3), 4.10 (q, 2, J=7), 4.75 (s, 2), 6.45 (s, 1), 7.02 (m, 2), 7.33-7.18 (overlapping m, 4), 8.05 (m, 1). 13C NMR (125 MHz, CDCl3) δ: 14.69, 48.31, 63.18, 64.48, 92.87, 103.88, 115.69, 115.86, 118.94, 126.40, 130.24, 130.30, 131.00, 139.50, 146.56, 158.71, 159.16, 159.36, 159.59, 161.69, 163.65, 170.75.

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide | CC1(OC(C(O1)=CC(=O)N(OC)CC1=CC=C(C=C1)F)=O)C | C15H16FNO5
reactant | 6-ethoxy-benzothiazole-2-sulfonic acid amide | C(C)OC1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1 | C9H10N2O3S2
product | 4-(6-Ethoxy-benzothiazole-2-sulfonylamino)-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide | FC1=CC=C(CN(C(C=C(C(=O)NS(=O)(=O)C=2SC3=C(N2)C=CC(=C3)OCC)O)=O)OC)C=C1 | C21H20FN3O7S2
